* ============================================================
* RRAM Full Mixed-Signal Co-Simulation v3
* d_cosim Verilog FSM Controller + Analog Blocks (Closed Loop)
*
* Changes from v2:
*   - WRITE_PROG cycles: 500 → 5000 (5us → 50us)
*   - cycle_cnt widened: 10-bit → 14-bit
*   - VREF=0.93V (tuned for partial-SET detection margin)
*   - Phase 3 verify READ shifted to 51000ns (after WRITE completes ~50170ns)
*   - Total simulation: 52000ns
*
* Signal chain:
*   Commands (PWL) → ADC → d_cosim controller
*   Controller outputs → DAC → WL Driver → RRAM 4x4 array
*   RRAM BLs → Sense Amplifier → ADC → bl_sense (feedback)
*
* Test scenario:
*   Phase 1 - READ Row=1, Col=2 (t=45ns)
*     Cell(1,2) = HRS (Tfilament=3.5e-9) → expect resp_data=0
*   Phase 2 - WRITE Row=1, Col=2, Data=1 (t=145ns)
*     SET cell(1,2) → HRS to LRS (5000 cycles = 50us programming pulse)
*   Phase 3 - Verify READ Row=1, Col=2 (t=51000ns)
*     Cell(1,2) should now be LRS → expect resp_data=1
* ============================================================
.title RRAM_COSIM_FULL_V3

** --------------------------------------------------------
** Sky130 PDK device models
** --------------------------------------------------------
.lib $PDK_ROOT/sky130B/libs.tech/ngspice/sky130.lib.spice tt

** --------------------------------------------------------
** RRAM cell subcircuit (OSDI compact model)
** --------------------------------------------------------
.subckt sky130_fd_pr_reram__reram_cell TE BE Tfilament_0=3.3e-9
.model rram_local sky130_fd_pr_reram__reram_cell
+ Tfilament_0 = Tfilament_0
+ area_ox = 0.1024e-12
+ Tox = 5.0e-9
+ Tfilament_max = 4.9e-9
+ Tfilament_min = 3.3e-9
+ Eact_generation = 1.501
+ Eact_recombination = 1.500
+ I_k1 = 6.140e-5
+ Tfilament_ref = 4.7249e-9
+ V_ref = 0.430
+ velocity_k1 = 150
+ gamma_k0 = 16.5
+ gamma_k1 = -1.25
+ Temperature_0 = 300
+ C_thermal = 3.1825e-16
+ tau_thermal = 0.23e-9
+ t_step = 1.0e-9
N1 TE BE rram_local
.ends sky130_fd_pr_reram__reram_cell

** --------------------------------------------------------
** WL Driver subcircuit (8 transistors)
** Pins: IN OUT VDD VWL VSS
** --------------------------------------------------------
.subckt wl_driver IN OUT VDD VWL VSS
XMP0 INB IN VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29
+ pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XMN0 INB IN VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad=0.145 as=0.145
+ pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMP1 Q QB VWL VWL sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 ad=0.29 as=0.29
+ pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XMN1 Q IN VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=2 nf=1 ad=0.58 as=0.58
+ pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1
XMP2 QB Q VWL VWL sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 ad=0.29 as=0.29
+ pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XMN2 QB INB VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=2 nf=1 ad=0.58 as=0.58
+ pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1
XMP3 OUT Q VWL VWL sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=4 nf=1 ad=1.16 as=1.16
+ pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult=1
XMN3 OUT Q VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=2 nf=1 ad=0.58 as=0.58
+ pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1
.ends wl_driver

** --------------------------------------------------------
** Sense Amplifier subcircuit (StrongARM latch, 10 transistors)
** Pins: SAE INP INN Q QB VDD VSS
** --------------------------------------------------------
.subckt sense_amp SAE INP INN Q QB VDD VSS
XMP3 Q SAE VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1 ad=0.145 as=0.145
+ pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMP4 QB SAE VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1 ad=0.145 as=0.145
+ pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMP5 QB SAE Q VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1 ad=0.145 as=0.145
+ pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMP1 Q QB VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29
+ pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XMP2 QB Q VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29
+ pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XMN1 Q QB FN1 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29
+ pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XMN2 QB Q FN2 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29
+ pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XMN3 FN1 INP TAIL VSS sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58
+ pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1
XMN4 FN2 INN TAIL VSS sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58
+ pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1
XMN0 TAIL SAE VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58
+ pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1
.ends sense_amp

** --------------------------------------------------------
** RRAM 4x4 Array
** Row 0: [LRS, HRS, LRS, HRS]
** Row 1: [HRS, LRS, HRS, LRS] ← test target
** Row 2: [LRS, LRS, HRS, HRS]
** Row 3: [HRS, HRS, LRS, LRS]
** --------------------------------------------------------
.subckt rram_4x4_fixed BL0 BL1 BL2 BL3 WL0 WL1 WL2 WL3 SL0 SL1 SL2 SL3 GND
* Row 0 (WL0, SL0)
XR00 BL0 n00 sky130_fd_pr_reram__reram_cell Tfilament_0=4.5e-9
XM00 n00 WL0 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
XR01 BL1 n01 sky130_fd_pr_reram__reram_cell Tfilament_0=3.5e-9
XM01 n01 WL0 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
XR02 BL2 n02 sky130_fd_pr_reram__reram_cell Tfilament_0=4.5e-9
XM02 n02 WL0 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
XR03 BL3 n03 sky130_fd_pr_reram__reram_cell Tfilament_0=3.5e-9
XM03 n03 WL0 SL0 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
* Row 1 (WL1, SL1) ← test target
XR10 BL0 n10 sky130_fd_pr_reram__reram_cell Tfilament_0=3.5e-9
XM10 n10 WL1 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
XR11 BL1 n11 sky130_fd_pr_reram__reram_cell Tfilament_0=4.5e-9
XM11 n11 WL1 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
XR12 BL2 n12 sky130_fd_pr_reram__reram_cell Tfilament_0=3.5e-9
XM12 n12 WL1 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
XR13 BL3 n13 sky130_fd_pr_reram__reram_cell Tfilament_0=4.5e-9
XM13 n13 WL1 SL1 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
* Row 2 (WL2, SL2)
XR20 BL0 n20 sky130_fd_pr_reram__reram_cell Tfilament_0=4.5e-9
XM20 n20 WL2 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
XR21 BL1 n21 sky130_fd_pr_reram__reram_cell Tfilament_0=4.5e-9
XM21 n21 WL2 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
XR22 BL2 n22 sky130_fd_pr_reram__reram_cell Tfilament_0=3.5e-9
XM22 n22 WL2 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
XR23 BL3 n23 sky130_fd_pr_reram__reram_cell Tfilament_0=3.5e-9
XM23 n23 WL2 SL2 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
* Row 3 (WL3, SL3)
XR30 BL0 n30 sky130_fd_pr_reram__reram_cell Tfilament_0=3.5e-9
XM30 n30 WL3 SL3 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
XR31 BL1 n31 sky130_fd_pr_reram__reram_cell Tfilament_0=3.5e-9
XM31 n31 WL3 SL3 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
XR32 BL2 n32 sky130_fd_pr_reram__reram_cell Tfilament_0=4.5e-9
XM32 n32 WL3 SL3 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
XR33 BL3 n33 sky130_fd_pr_reram__reram_cell Tfilament_0=4.5e-9
XM33 n33 WL3 SL3 GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=1.5 nf=1 ad=0.435 as=0.435
+ pd=3.58 ps=3.58 nrd=0.193 nrs=0.193 sa=0 sb=0 sd=0 mult=1
.ends rram_4x4_fixed

** --------------------------------------------------------
** BL Write Driver subcircuit (Tri-state buffer, 8 transistors)
** Pins: EN DATA BL VDD VSS
** EN=1: BL=DATA (full VDD swing), EN=0: BL=Hi-Z
** --------------------------------------------------------
.subckt bl_write_driver EN DATA BL VDD VSS
* EN inverter
XMP0 EN_B EN VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1 ad=0.145 as=0.145
+ pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMN0 EN_B EN VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad=0.145 as=0.145
+ pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0 mult=1
* DATA inverter
XMP3 DATA_B DATA VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1 ad=0.145 as=0.145
+ pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0 mult=1
XMN3 DATA_B DATA VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad=0.145 as=0.145
+ pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0 mult=1
* Output: series PMOS (VDD → NET_P → BL)
XMP1 NET_P EN_B VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16
+ pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult=1
XMP2 BL DATA_B NET_P VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16
+ pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult=1
* Output: series NMOS (BL → NET_N → VSS)
XMN2 BL DATA_B NET_N VSS sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16
+ pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult=1
XMN1 NET_N EN VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16
+ pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult=1
.ends bl_write_driver

** ========================================================
** POWER SUPPLIES
** v3: VREF=0.93V (tuned for partial-SET detection)
** ========================================================
VDD    vdd     0 DC 1.8
VWLP   vwl_pwr 0 DC 3.3
VREF   vref    0 DC 0.93
VWRITE vwrite  0 DC 3.0

** ========================================================
** DIGITAL CLOCK (100MHz via d_osc)
** ========================================================
A_clk 0 clk_d clkmodel
.model clkmodel d_osc (cntl_array=[-1 1] freq_array=[100Meg 100Meg])

** ========================================================
** COMMAND STIMULUS (analog PWL, literal values)
** v3: Phase 3 verify READ at 51000ns (after 5000-cycle WRITE completes ~50170ns)
** ========================================================

* Reset: active-low, deassert at 25ns
V_rst rst_a 0 PWL(0 0 24n 0 25n 1.8)

* cmd_valid: pulses at 45ns (read), 145ns (write), 51000ns (verify read)
V_cv cv_a 0 PWL(0 0 44n 0 45n 1.8 80n 1.8 81n 0
+                  144n 0 145n 1.8 180n 1.8 181n 0
+                  50999n 0 51000n 1.8 51035n 1.8 51036n 0)

* cmd_write: 0 for reads, 1 for write at 145ns
V_cw cw_a 0 PWL(0 0 144n 0 145n 1.8 181n 1.8 182n 0)

* cmd_row[1:0] = 01 (row 1): bit1(MSB)=0, bit0(LSB)=1
V_cr1 cr1_a 0 DC 0
V_cr0 cr0_a 0 DC 1.8

* cmd_col[1:0] = 10 (col 2): bit1(MSB)=1, bit0(LSB)=0
V_cc1 cc1_a 0 DC 1.8
V_cc0 cc0_a 0 DC 0

* cmd_data = 1 (for write at 145ns)
V_cd cd_a 0 PWL(0 0 144n 0 145n 1.8 181n 1.8 182n 0)

** ========================================================
** ADC BRIDGES: Analog command inputs → Digital
** ========================================================
.model adc1 adc_bridge (in_low=0.6 in_high=1.2 rise_delay=0.1n fall_delay=0.1n)

A_adc_cmd [rst_a cv_a cw_a cr1_a cr0_a cc1_a cc0_a cd_a]
+         [rst_d cv_d cw_d cr1_d cr0_d cc1_d cc0_d cd_d]
+         adc1

** ADC BRIDGES: SA outputs → bl_sense (CLOSED LOOP FEEDBACK!)
A_adc_sa [sa_q3 sa_q2 sa_q1 sa_q0]
+        [bs3_d bs2_d bs1_d bs0_d]
+        adc1

** ========================================================
** d_cosim CONTROLLER (Verilog FSM via Verilator)
** v3: cycle_cnt 14-bit, WRITE_PROG=5000 cycles (50us), SA delay (cnt>=3)
** ========================================================
* Inputs  (13 bits): clk, rst_n, cmd_valid, cmd_write,
*                    cmd_row[1], cmd_row[0], cmd_col[1], cmd_col[0],
*                    cmd_data, bl_sense[3], bl_sense[2], bl_sense[1], bl_sense[0]
* Outputs (21 bits): cmd_ready, resp_valid, resp_data,
*                    wl_sel[3:0], sl_sel[3:0], bl_en[3:0], bl_data[3:0],
*                    write_en, read_en
A_ctrl [clk_d rst_d cv_d cw_d cr1_d cr0_d cc1_d cc0_d cd_d bs3_d bs2_d bs1_d bs0_d]
+      [cmd_ready_d resp_valid_d resp_data_d
+       wl3_d wl2_d wl1_d wl0_d
+       sl3_d sl2_d sl1_d sl0_d
+       bl_en3_d bl_en2_d bl_en1_d bl_en0_d
+       bl_data3_d bl_data2_d bl_data1_d bl_data0_d
+       write_en_d read_en_d]
+      null cosim_ctrl
.model cosim_ctrl d_cosim (simulation="./controller.so" delay=1n)

** ========================================================
** DAC BRIDGES: Digital controller outputs → Analog
** ========================================================
.model dac1 dac_bridge (out_low=0 out_high=1.8 out_undef=0.9
+                       t_rise=0.5n t_fall=0.5n)

* Control/status signals
A_dac_ctrl [cmd_ready_d resp_valid_d resp_data_d write_en_d read_en_d]
+          [rdy_a rv_a rd_a wen_a ren_a]
+          dac1

* WL select (one-hot decoded, drives WL drivers)
A_dac_wl [wl3_d wl2_d wl1_d wl0_d]
+        [wl_in3 wl_in2 wl_in1 wl_in0]
+        dac1

* SL select (one-hot decoded, drives SL switches)
A_dac_sl [sl3_d sl2_d sl1_d sl0_d]
+        [sl_en3 sl_en2 sl_en1 sl_en0]
+        dac1

* BL enable (one-hot, drives write pass gates)
A_dac_blen [bl_en3_d bl_en2_d bl_en1_d bl_en0_d]
+          [bl_en_a3 bl_en_a2 bl_en_a1 bl_en_a0]
+          dac1

* BL data (write data per column)
A_dac_bldat [bl_data3_d bl_data2_d bl_data1_d bl_data0_d]
+           [bl_data_a3 bl_data_a2 bl_data_a1 bl_data_a0]
+           dac1

** ========================================================
** BL PRECHARGE CONTROL (OR of WL selects)
** Precharge ON (gate=0) when no WL active
** Precharge OFF (gate=1.8V) when any WL active
** ========================================================
A_or_wl [wl3_d wl2_d wl1_d wl0_d] prech_en_d d_or_model
.model d_or_model d_or (rise_delay=0.1n fall_delay=0.1n input_load=1e-15)
A_dac_prech [prech_en_d] [prech_en_a] dac1

** ========================================================
** ANALOG SIGNAL CHAIN
** ========================================================

** WL Drivers (4x, level shift 1.8V → 3.3V)
** Pins: IN OUT VDD VWL VSS
x_wld0 wl_in0 wl0 vdd vwl_pwr 0 wl_driver
x_wld1 wl_in1 wl1 vdd vwl_pwr 0 wl_driver
x_wld2 wl_in2 wl2 vdd vwl_pwr 0 wl_driver
x_wld3 wl_in3 wl3 vdd vwl_pwr 0 wl_driver

** BL Precharge PMOS (gate=prech_en_a: OFF when any WL active)
XMP_pre0 bl0 prech_en_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58
+ pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1
XMP_pre1 bl1 prech_en_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58
+ pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1
XMP_pre2 bl2 prech_en_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58
+ pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1
XMP_pre3 bl3 prech_en_a vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58
+ pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1

** BL Parasitic Capacitance (100fF per BL)
C_bl0 bl0 0 100f
C_bl1 bl1 0 100f
C_bl2 bl2 0 100f
C_bl3 bl3 0 100f

** SL Ground Switches (NFET: SL → GND when sl_en high)
XMN_sl0 rram_sl0 sl_en0 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad=2.9 as=2.9
+ pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0 mult=1
XMN_sl1 rram_sl1 sl_en1 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad=2.9 as=2.9
+ pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0 mult=1
XMN_sl2 rram_sl2 sl_en2 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad=2.9 as=2.9
+ pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0 mult=1
XMN_sl3 rram_sl3 sl_en3 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad=2.9 as=2.9
+ pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0 mult=1

** BL Write Drivers (Tri-state buffer: EN=bl_en, DATA=bl_data → BL)
** Pins: EN DATA BL VDD VSS
** VDD=vwrite(3.0V) for higher SET voltage
x_blw0 bl_en_a0 bl_data_a0 bl0 vwrite 0 bl_write_driver
x_blw1 bl_en_a1 bl_data_a1 bl1 vwrite 0 bl_write_driver
x_blw2 bl_en_a2 bl_data_a2 bl2 vwrite 0 bl_write_driver
x_blw3 bl_en_a3 bl_data_a3 bl3 vwrite 0 bl_write_driver

** RRAM 4x4 Array
x_rram bl0 bl1 bl2 bl3 wl0 wl1 wl2 wl3
+      rram_sl0 rram_sl1 rram_sl2 rram_sl3 0 rram_4x4_fixed

** Sense Amplifiers (4x, SAE = ren_a from controller read_en)
** Pins: SAE INP INN Q QB VDD VSS
x_sa0 ren_a bl0 vref sa_q0 sa_qb0 vdd 0 sense_amp
x_sa1 ren_a bl1 vref sa_q1 sa_qb1 vdd 0 sense_amp
x_sa2 ren_a bl2 vref sa_q2 sa_qb2 vdd 0 sense_amp
x_sa3 ren_a bl3 vref sa_q3 sa_qb3 vdd 0 sense_amp

** ========================================================
** SIMULATION CONTROL
** v3: Extended to 52000ns for 5000-cycle WRITE (50us)
** ========================================================
.control
pre_osdi $PDK_ROOT/sky130B/libs.tech/ngspice/sky130_fd_pr_reram__reram_module.osdi
save all
tran 1n 52000n

echo ""
echo "=============================================="
echo "RRAM Co-Sim v3: 5000-cycle WRITE (50us), VWRITE=3.0V, VREF=0.93V"
echo "=============================================="
echo ""

* --- Phase 1: READ Row=1, Col=2 ---
echo "--- Phase 1: READ Row=1, Col=2 ---"
echo "Expected: Cell(1,2)=HRS → resp_data=0"
meas tran rdy_30 FIND v(rdy_a) AT=30n
meas tran wl1_65 FIND v(wl1) AT=65n
meas tran bl2_85 FIND v(bl2) AT=85n
meas tran bl2_90 FIND v(bl2) AT=90n
meas tran bl2_95 FIND v(bl2) AT=95n
meas tran ren_90 FIND v(ren_a) AT=90n
meas tran ren_100 FIND v(ren_a) AT=100n
meas tran bl2_100 FIND v(bl2) AT=100n
meas tran saq2_105 FIND v(sa_q2) AT=105n
meas tran rv1_130 FIND v(rv_a) AT=130n
meas tran rd1_130 FIND v(rd_a) AT=130n

echo ""
echo "--- Phase 2: WRITE Row=1, Col=2, Data=1 (5000 cycles = 50us) ---"
* Check signals at start of WRITE
meas tran wen_500 FIND v(wen_a) AT=500n
meas tran bl2_500 FIND v(bl2) AT=500n
meas tran be12_500 FIND v(x_rram.n12) AT=500n
* Track filament growth via BE voltage over time
meas tran be12_1000 FIND v(x_rram.n12) AT=1000n
meas tran be12_5000 FIND v(x_rram.n12) AT=5000n
meas tran be12_10000 FIND v(x_rram.n12) AT=10000n
meas tran be12_20000 FIND v(x_rram.n12) AT=20000n
meas tran be12_30000 FIND v(x_rram.n12) AT=30000n
meas tran be12_40000 FIND v(x_rram.n12) AT=40000n
meas tran be12_50000 FIND v(x_rram.n12) AT=50000n
meas tran bl2_50000 FIND v(bl2) AT=50000n
* Check WRITE completion
meas tran wen_50200 FIND v(wen_a) AT=50200n

echo ""
echo "--- WRITE->IDLE transition ---"
meas tran be12_50150 FIND v(x_rram.n12) AT=50150n
meas tran bl2_50170 FIND v(bl2) AT=50170n
meas tran be12_50170 FIND v(x_rram.n12) AT=50170n
meas tran bl2_50200 FIND v(bl2) AT=50200n
meas tran be12_50200 FIND v(x_rram.n12) AT=50200n

echo ""
echo "--- Phase 3: Verify READ Row=1, Col=2 ---"
echo "Expected: Cell(1,2) now LRS after 50us write @ 3.0V → resp_data=1"
* BL2 trajectory during Phase 3 READ (every 5ns)
meas tran bl2_51020 FIND v(bl2) AT=51020n
meas tran bl2_51025 FIND v(bl2) AT=51025n
meas tran bl2_51030 FIND v(bl2) AT=51030n
meas tran bl2_51035 FIND v(bl2) AT=51035n
meas tran bl2_51040 FIND v(bl2) AT=51040n
meas tran bl2_51045 FIND v(bl2) AT=51045n
meas tran bl2_51050 FIND v(bl2) AT=51050n
meas tran bl2_51055 FIND v(bl2) AT=51055n
meas tran be12_51025 FIND v(x_rram.n12) AT=51025n
* SA and response
meas tran ren_51055 FIND v(ren_a) AT=51055n
meas tran ren_51060 FIND v(ren_a) AT=51060n
meas tran saq2_51065 FIND v(sa_q2) AT=51065n
meas tran rv_51090 FIND v(rv_a) AT=51090n
meas tran rd_51090 FIND v(rd_a) AT=51090n

echo ""
echo "=============================================="

.endc
.end
